US05276025
2(R,S)-Methyl-4-isobutyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide
A solution of 2(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide (1.18 g, 4.0 mmol) in dry dimethylformamide (6 mL) containing isobutylbromide (1.3 mL, 12 mmol) and triethylamine (2.3 mL, 16 mmol) was warmed at 80° C. for 20 hours in a sealed tube. The reaction mixture was poured into water and the product extracted into ethyl acetate. This extract was dried (Na2SO4), filtered and evaporated. The residue was chromatographed on silica gel and eluted with a 0-1% methanol/chloroform gradient to give 900 mg (64%) of title compound which slowly crystallized. Recrystallization from methylene chloride/butyl chloride gave analytically pure material, mp 158°-159.5° C.

reactant | 2(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide | 4.0 mmol, 1.18 g | CC1S(C2=C(CNC1)C=C(S2)S(N)(=O)=O)(=O)=O | C8H12N2O4S3
reactant | isobutylbromide | 12 mmol, 1.3 mL | C(C(C)C)Br | C4H9Br
reactant | triethylamine | 16 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 2(R,S)-Methyl-4-isobutyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide | 900 mg, 64% | CC1S(C2=C(CN(C1)CC(C)C)C=C(S2)S(N)(=O)=O)(=O)=O | C12H20N2O4S3
